US06603005B2
A mixture of 0.39 g of ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-(2-phenylthioethyl)piperidine-4-carboxylate in 3 cm3 of dioxane, 3 cm3 of methanol and 2.3 cm3 of aqueous 5N sodium hydroxide solution was stirred at a temperature in the region of 70° C. for 17 hours. After cooling to about 20° C., the reaction mixture was concentrated to dryness under a pressure gradually reduced from 30 kPa to 2.5 kPa and at a temperature in the region of 45° C. The residue was taken up in 5 cm3 of a dichloromethane/methanol/aqueous ammonia mixture (40/5/0.5 by volume) and was then purified by chromatography under atmospheric pressure, on a cartridge of silica gel (Bond Elut; particle size 70-200μ; mass 10 g), eluting with a dichloromethane/methanol/aqueous ammonia mixture (90/9/0.9 by volume) and then with a chloroform/methanol/aqueous ammonia mixture (77.5/19.5/3). The fractions containing the product were combined, concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. and dried in a desiccator (10 kPa). 0.3 g of 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-(2-phenylthioethyl)piperidine-4-carboxylic acid was obtained in the form of a white solid.

reactant | ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-(2-phenylthioethyl)piperidine-4-carboxylate | 0.39 g | FC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCSC1=CC=CC=C1)C(=O)OCC)OC | C29H35FN2O3S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | dioxane | 3 cm3 | O1CCOCC1 | C4H8O2
solvent | methanol | 3 cm3 | CO | CH4O
product | 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-(2-phenylthioethyl)piperidine-4-carboxylic acid | 0.3 g | FC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCSC1=CC=CC=C1)C(=O)O)OC | C27H31FN2O3S
